US07402704B2
To 1,1,1-trifluoro-2-(4-mercaptophenyl)propan-2-ol (5.7 g, 25 mmol) was added NaOH (1.7 g, 42 mmol), a solution of 4-chlorothiazol-2-amine (2.5 g, 18 mmol) in EtOH (18 mL), and water (36 mL). The mixture was brought to reflux and stirred for 2 h. The solution was poured onto water (100 mL) and extracted with Et2O (3×50 mL). The combined organics were washed with brine (100 mL) and dried over MgSO4 and concentrated in vacuo to provide 3.65 g of 2-(4-(2-aminothiazol-4-ylthio)phenyl)-1,1,1-trifluoropropan-2-ol.

reactant | 1,1,1-trifluoro-2-(4-mercaptophenyl)propan-2-ol | 25 mmol, 5.7 g | FC(C(C)(O)C1=CC=C(C=C1)S)(F)F | C9H9F3OS
reactant | NaOH | 42 mmol, 1.7 g | [OH-].[Na+]
reactant | 4-chlorothiazol-2-amine | 18 mmol, 2.5 g | ClC=1N=C(SC1)N | C3H3ClN2S
reactant | water | 36 mL | O | H2O
solvent | EtOH | 18 mL | CCO | C2H6O
product | 2-(4-(2-aminothiazol-4-ylthio)phenyl)-1,1,1-trifluoropropan-2-ol | 3.65 g | NC=1SC=C(N1)SC1=CC=C(C=C1)C(C(F)(F)F)(C)O | C12H11F3N2OS2
